US07521461B2
a) Methyl 2-{[4(2-oxo-2-{[4-(trifluoromethyl)benzyl]amino}ethyl)phenoxy]methyl}-benzoate
(4-{[2-(Methoxycarbonyl)benzyl]oxy}phenyl)acetic acid (50 mg, 0.167 mmol) was dissolved in DCM (2 ml), 4-(Trifluoromethyl)benzylamine (35 mg, 0.2 mmol) was added, then EDC (38 mg, 0.2 mmol) was added and then DMAP (24.4 mg, 0.2 mmol) was added. The mixture was stirred at room temperature overnight. 1% hydrochloric acid (1 ml) and water (1 ml) was added into the mixture. The two phases were separated using a Whatman Filter Tube. The obtained organic solution was evaporated in vacuum and the solid product (72 mg) was left, yield 95%.

reactant | (4-{[2-(Methoxycarbonyl)benzyl]oxy}phenyl)acetic acid | 0.167 mmol, 50 mg | COC(=O)C1=C(COC2=CC=C(C=C2)CC(=O)O)C=CC=C1 | C17H16O5
reactant | 4-(Trifluoromethyl)benzylamine | 0.2 mmol, 35 mg | FC(C1=CC=C(CN)C=C1)(F)F | C8H8F3N
reactant | EDC | 0.2 mmol, 38 mg
reactant | hydrochloric acid | 1 ml | Cl | ClH
solvent | DCM | 2 ml | C(Cl)Cl | CH2Cl2
catalyst | DMAP | 0.2 mmol, 24.4 mg | CN(C)C=1C=CN=CC1 | C7H10N2
solvent | water | 1 ml | O | H2O
product | Methyl 2-{[4(2-oxo-2-{[4-(trifluoromethyl)benzyl]amino}ethyl)phenoxy]methyl}-benzoate | yield 95% | O=C(CC1=CC=C(OCC2=C(C(=O)OC)C=CC=C2)C=C1)NCC1=CC=C(C=C1)C(F)(F)F | C25H22F3NO4
